US04405552
EXAMPLE 50: 6-(4-CHLOROPHENYL)-3-PYRIDINE CARBONITRILE
2-Chloro-6-(4-chlorophenyl)-3-pyridinecarbonitrile (2.49 grams) and 5% Pd/C (0.3 gram) were reacted on a Parr shaker in 100 ml DMF. Next the reaction mixture was filtered and the filtrate poured into ice water. A solid formed which was collected and recrystallized from ethanol, yield 0.85 gram.

reactant | 2-Chloro-6-(4-chlorophenyl)-3-pyridinecarbonitrile | 2.49 grams | ClC1=NC(=CC=C1C#N)C1=CC=C(C=C1)Cl | C12H6Cl2N2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
catalyst | Pd/C | 0.3 gram | [Pd] | Pd
product | 6-(4-CHLOROPHENYL)-3-PYRIDINE CARBONITRILE | ClC1=CC=C(C=C1)C1=CC=C(C=N1)C#N | C12H7ClN2
